US08012956B2
1-tert-Butyl 4-methyl 3-(ethylamino)-2,5-dimethylterephthalate (142 mg, 0.463 mmol) was dissolved in dioxane (2 mL) and was cooled in an ice bath. 2N Lithium hydroxide (0.25 mL) was added and the mixture was stirred for 16 h and then methanol (0.5 mL) and 2N lithium hydroxide (0.25 mL) were added, and the mixture was stirred at ambient temperature for 1.5 h. The mixture was cooled in an ice bath and 1N sodium hydroxide (0.5 mL) was added and the mixture was stirred for 1 h and then was warmed to ambient temperature and was stirred for a further 1 h. The mixture was stirred at 50-55° C. for a further 16 h and then was cooled to ambient temperature and acidified with 1N hydrochloric acid to pH ˜4.5. The mixture was diluted with water and extracted with ethyl acetate (2×). The organic portion was dried over sodium sulfate, then filtered and concentrated to provide 4-(tert-butoxycarbonyl)-2-(ethylamino)-3,6-dimethylbenzoic acid (115 mg, 0.392 mmol, 85% yield) as a brown oil. 1H NMR (400 MHz, CDCl3): δ 7.45 (s, 1H), 2.97 (q, 2H), 2.67 (s, 3H), 2.46 (s, 3H), 1.61 (s, 9H), 1.34 (t, 3H); MS (EI) for C16H23NO4: 294 (MH+).

reactant | 1-tert-Butyl 4-methyl 3-(ethylamino)-2,5-dimethylterephthalate | 0.463 mmol, 142 mg | C(C)NC=1C(=C(C(=O)OC(C)(C)C)C=C(C1C(=O)OC)C)C | C17H25NO4
reactant | Lithium hydroxide | 2N, 0.25 mL | [OH-].[Li+]
reactant | lithium hydroxide | 2N, 0.25 mL | [OH-].[Li+]
reactant | sodium hydroxide | 1N, 0.5 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
solvent | methanol | 0.5 mL | CO | CH4O
product | 4-(tert-butoxycarbonyl)-2-(ethylamino)-3,6-dimethylbenzoic acid | 0.392 mmol, 115 mg, 85% yield | C(C)(C)(C)OC(=O)C1=C(C(=C(C(=O)O)C(=C1)C)NCC)C | C16H23NO4
